US04767867
5-{[(4-Chlorophenyl)methoxy]methyl}-3-(4-chlorophenyl)-3-(1H-imidazol-1-ylmethyl)-2-methylisoxazolidine (3: R1 =4-Cl, R2 =CH2C6H4Cl-4)
Derivative 3 (R1 =4-Cl, R2 =CH2C6H4Cl-4 is prepared by a procedure similar to that described in Example 1 by reacting 1-(4-chlorophenyl)-2-(1H-imidazol-1-yl)-N-methylethanimine N-oxide (1: R1 =4-Cl) with allyl 4-chlorobenzyl ether (2: R2 =CH2C6H4Cl-4). The resulting cis-/trans-diastereomeric mixture of the title compound (3: R1 =4-Cl, R2 =CH2C6H4Cl-4) is flash-chromatographed on neutral silica gel using chloroform-methanol (98:2 by volume) as eluent.

reactant | 1-(4-chlorophenyl)-2-(1H-imidazol-1-yl)-N-methylethanimine N-oxide | ClC1=CC=C(C=C1)C(CN1C=NC=C1)=[N+](C)[O-] | C12H12ClN3O
reactant | allyl 4-chlorobenzyl ether | ClC1=CC=C(COCC=C)C=C1 | C10H11ClO
product | 5-{[(4-Chlorophenyl)methoxy]methyl}-3-(4-chlorophenyl)-3-(1H-imidazol-1-ylmethyl)-2-methylisoxazolidine | ClC1=CC=C(C=C1)COCC1CC(N(O1)C)(CN1C=NC=C1)C1=CC=C(C=C1)Cl | C22H23Cl2N3O2
